US05922725
5-Cyano-1-(3-iodophenyl)benzimidazole:
A suspension of 2-amino-(N-(3-iodophenyl))4-cyanoaniline (1,8 g, 5.36 mmol) in formic acid (20 ml) is heated to 80-100° C. for 1.5 hours. The hot reaction mixture is filtered through a cotton pad into ice-water (100 ml). The precipitate is filtered off, washed with water and dried. This crude product is dissolved in dichloromethane and is brought to precipitation by addition of petroleum ether. The product is filtered off and dried. Yield: 1.38 g (75%) of the title compound. Mp. 177-179° C.

reactant | 2-amino-(N-(3-iodophenyl))4-cyanoaniline | 5.36 mmol, 1,8 g | NC1=C(NC2=CC(=CC=C2)I)C=CC(=C1)C#N | C13H10IN3
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | 5-Cyano-1-(3-iodophenyl)benzimidazole | C(#N)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)I)C=C1 | C14H8IN3
